US06737439B2
5,7-Dihydroxycoumarin.
Assay for Inhibition of Aromatase Activity. Microsomes were prepared from freshly delivered human term placentas using 0.05 M potassium phosphate buffer, pH 7.4, and stored frozen in plastic tubes at −70° C. Reaction mixtures were prepared in glass tubes containing 4 μL of placental microsomes (5 mg/mL), 0.3 μL of [1,2-3H]androstenedione (42.0 Ci/mmol, 1.0 mCi/mL) (NEN Life Science Products, Boston, Mass.), 5 μL of unlabelled androstenedione (0.875 μM), 5 pL of NADPH (0.48 mM), 10 μL of test sample (dissolved in DMSO), and 0.05 M potassium phosphate buffer, pH 7.4 (500 μL, final volume). After a 4 min incubation at 37° C., the reaction was terminated by adding 3 mL of chloroform. The tubes were centrifuged at 2,000×g for 10 min and then 300 μL of the aqueous phases were transferred to tubes containing 300 μL of charcoal/dextrin solution (5%). Following another 10 min centrifugation at 2,000×g, supernatant fractions (500 μL) were used for the determination of radioactivity. Inhibition of aromatase activity was calculated using the following equation: % ⁢   ⁢ Inhibition = [ 1 - Sample ⁢   ⁢ ( DPM ) - Blank ⁢   ⁢ ( DPM ) DMSO ⁢   ⁢ ( DPM ) - Blank ⁢   ⁢ ( DPM ) ] × 100

reactant | potassium phosphate | 0.05 M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | androstenedione | 0.875 μM, 5 μL | C[C@@]12C(=O)CC[C@H]1[C@@H]1CCC3=CC(=O)CC[C@]3(C)[C@H]1CC2 | C19H26O2
reactant | NADPH | 0.48 mM | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
reactant | potassium phosphate | 0.05 M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | DMSO | CS(=O)C | C2H6OS
product | 5,7-Dihydroxycoumarin | OC1=C2C=CC(OC2=CC(=C1)O)=O | C9H6O4
